US05981544
1.58 g (12.30 mmol) of 2-amino-5-chloropyridine are added to a suspension of 1.29 g (6.21 mmol) of 3-chloro-1,4-dihydro-1,4-dioxo-2-hydroxynaphthalene in solution in 10 mL of 1,2-dimethoxyethane. The reaction medium is brought to reflux for 23 h. After complete cooling, the medium is diluted in 10 mL of water. The precipitate is filtered, washed with water and heptane, and dried. The precipitate is then diluted in dichloromethane and the organic phase is washed successively with a saturated solution of sodium hydrogen carbonate and sodium chloride. The organic phase is dried on sodium sulfate, filtered, and evaporated under reduced pressure. The raw product obtained is purified on a flash column (support: silica; eluent: dichoromethane/heptane/methanol, 79.5/20.0/0.5) to produce 0.07 g of 2-chloro-6,11-dihydro-6,11-dioxo-naphtho[2',3':4,5]imidazo [1,2-a]pyridine in the form of yellow crystals after decoloration with animal black.

reactant | 2-amino-5-chloropyridine | 12.30 mmol, 1.58 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | 3-chloro-1,4-dihydro-1,4-dioxo-2-hydroxynaphthalene | 6.21 mmol, 1.29 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)O | C10H5ClO3
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
product | 2-chloro-6,11-dihydro-6,11-dioxo-naphtho[2',3':4,5]imidazo [1,2-a]pyridine | 0.07 g, Yield: 4% | ClC=1C=CC=2N(C1)C1=C(N2)C(C=2C=CC=CC2C1=O)=O | C15H7ClN2O2
